US04898930
Ethyl 3-carboxypropionylphenylalanyl-phenylalanyl-1-amino-1 cyclopentanecarboxylate
A solution of ethyl benzyloxycarbonylphenylalanylphenylalanyl-1-amino-1-cyclopentanecarboxylate (590 mg, 1 mmole) in methanol was hydrogenated by the procedure of Example 1. The methanolic solution was evaporated, dissolved in tetrahydrofurane, evaporated and acylated with glutaric anhydride (175 mg) in dimethylformamide for 2 hours at 80° C. The reaction mixture was evaporated and the product was precipitated with water to give the title compound, m.p. 193° to 196° C. (dimethylformamide-water).

reactant | ethyl benzyloxycarbonylphenylalanylphenylalanyl-1-amino-1-cyclopentanecarboxylate | 1 mmole, 590 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)C1C(CCC1)(C(=O)OCC)N | C34H39N3O6
solvent | methanol | CO | CH4O
product | Ethyl 3-carboxypropionylphenylalanyl-phenylalanyl-1-amino-1 cyclopentanecarboxylate | C(=O)(O)CCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)C1C(CCC1)(C(=O)OCC)N | C30H37N3O7
